US06518423B1
Ethyl 6-(5-nitropyridin-2-yl)-2,2-dimethylhexanoate
9.71 g of triethyl 5-methyl-1-(5-nitropyridin-2-yl)hexane-1,1,5-tricarboxylate was treated in the same manner as the one of Production Example 149 to thereby give 2.87 g of a yellow oily substance. A 1.82 g portion of this product was dissolved in 30 ml of ethanol. After adding 3 ml of conc. sulfuric acid, the resulting mixture was heated under reflux for 7 hours. After the completion of the reaction, the reaction mixture was poured into a saturated aqueous solution of sodium chloride and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and filtered. The filtrate was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluted with ethyl acetate/n-hexane) to thereby give 1.0 g of the title compound as a yellow oily substance.

reactant | triethyl 5-methyl-1-(5-nitropyridin-2-yl)hexane-1,1,5-tricarboxylate | 9.71 g | CC(CCCC(C(=O)OCC)(C(=O)OCC)C1=NC=C(C=C1)[N+](=O)[O-])(C)C(=O)OCC | C21H30N2O8
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 6-(5-nitropyridin-2-yl)-2,2-dimethylhexanoate | 1.0 g | [N+](=O)([O-])C=1C=CC(=NC1)CCCCC(C(=O)OCC)(C)C | C15H22N2O4
